US04391815
Treatment of 2,2-dimethyl-3,4-epoxy-6-cyano-3,4-dihydro-2H-benzo[b]pyran (2.09 g) with piperidine (0.86 g) in refluxing ethanol (60 ml) for 24 hours followed by evaporation of solvent gave a yellow oil which was dissolved in the minimum quantity of ethanol and treated with ethereal hydrogen chloride to give crystals of trans-2,2-dimethyl-4-piperidino-6-cyano-3,4-dihydro-2H-benzo[b]pyran-3-ol hydrochloride on standing (2.06 g) of m.p. 253°-257° C.

reactant | 2,2-dimethyl-3,4-epoxy-6-cyano-3,4-dihydro-2H-benzo[b]pyran | 2.09 g | CC1(C2C(C3=C(O1)C=CC(=C3)C#N)O2)C | C12H11NO2
reactant | piperidine | 0.86 g | N1CCCCC1 | C5H11N
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | trans-2,2-dimethyl-4-piperidino-6-cyano-3,4-dihydro-2H-benzo[b]pyran-3-ol hydrochloride | Cl.CC1([C@H]([C@@H](C2=C(O1)C=CC(=C2)C#N)N2CCCCC2)O)C | InChI=1S/C17H22N2O2.ClH/c1-17(2)16(20)15(19-8-4-3-5-9-19)13-10-12(11-18)6-7-14(13)21-17;/h6-7,10,15-16,20H,3-5,8-9H2,1-2H3;1H/t15-,16+;/m1./s1
